resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.994353
R2 0 n2 1.011113
R3 0 n4 0.993538
R4 n1 n3 1.012297
R5 n1 n5 0.987587
R6 n2 n3 0.988837
R7 n2 n6 0.985893
R8 n3 n7 0.986844
R9 n4 n5 1.006039
R10 n4 n6 0.998402
R11 n5 n7 0.033183
R12 n6 n7 0.980644
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
